US07820821B2
To a solution of 2-chloro-5-nitrobenzaldehyde (4 mmol) in ethanol (10 mL) was added aqueous hydrazine (5 mmol), and the resulting solution was heated at reflux for 2 h to complete hydrazone formation. DIEA (10 mmol) was added to the reaction mixture, and the reaction was subjected to microwave irradiation at 150° C. for 8-10 h. After removal of volatiles in vacuo, the residue obtained was dissolved in EtOAc (30 mL), washed with water (20 mL) and brine (20 mL) and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to yield the product, 2-(5-nitroindazol-1-yl)-ethanol.

reactant | 2-chloro-5-nitrobenzaldehyde | 4 mmol | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | hydrazine | 5 mmol | NN | H4N2
reactant | DIEA | 10 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 2-(5-nitroindazol-1-yl)-ethanol | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)CCO | C9H9N3O3
